US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (54.4 mg) was reacted with 2-(4-iodophenoxy)pyrimidine (59.2 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(pyrimidin-2-yloxy)phenyl]pent-4-enoic acid methyl ester (53.0 mg). Thin layer chromatography (silica gel, mobile phase: cyclohexane/ethyl acetate=10/1) was used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 54.4 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | 2-(4-iodophenoxy)pyrimidine | 59.2 mg | IC1=CC=C(OC2=NC=CC=N2)C=C1 | C10H7IN2O
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(pyrimidin-2-yloxy)phenyl]pent-4-enoic acid methyl ester | 53.0 mg | COC(C(C\C=C\C1=CC=C(C=C1)OC1=NC=CC=N1)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C23H19Cl2N3O4
